### PR TITLE
[Merged by Bors] - feat(Algebra/Squarefree): add exists_sq_mul_squarefree

### PR DESCRIPTION
**Pull request by xroblot**
Add `exists_sq_mul_squarefree`: every element of a unique factorization monoid is a square times a squarefree element. Also add `Squarefree.dvd_of_isSquare_mul` and `Squarefree.associated_of_isSquare_mul`, and golf the existing `Nat.sq_mul_squarefree` and `Nat.sq_mul_squarefree_of_pos` to use the new lemma.

### CODE REVIEW

File: Mathlib/Data/Nat/Squarefree.lean [hunk 1]
```diff
@@ -303,45 +303,20 @@ theorem sum_divisors_filter_squarefree {n : ℕ} (h0 : n ≠ 0) {α : Type*} [Ad
     Finset.sum_eq_multiset_sum]
   rfl
 
+theorem sq_mul_squarefree (n : ℕ) : ∃ a b : ℕ, b ^ 2 * a = n ∧ Squarefree a := by
+  obtain ⟨b, a, h, hs⟩ := exists_sq_mul_squarefree n
+  exact ⟨a, b, h, hs⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Squarefree.lean:310]: I'm not too happy with this inversion of `a` and `b`. I can see the argument for the order you chose for the new lemma, but then we should change this one too. Or better: leave this lemma as it is, but deprecate it (and maybe make it `protected`).

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

**Comment by adomani** [comment]
Very nice, thanks!

bors d+

File: Mathlib/Data/Nat/Squarefree.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/Data/Nat/Squarefree.lean:310]: I'll fix that. Thanks for the review!
